US04342765
A mixture of 2-guanidino-4-(3-aminocyclohexyl)thiazole dihydrochloride (0.62 g.), triethylamine (0.56 ml.) and sodium dicyanamide (0.23 g.) in n-butanol (10 ml.) was heated under reflux for four hours. The filtered reaction mixture was evaporated and the residue subjected to preparative thin layer chromatography on silica GF 254 (Merck) plates using chloroform/methanol/ammonia (s.g. 0.88) 8:2:03 v/v/v for development. Isolation of the appropriate region of the chromatogram and elution with hot ethanol/chloroform (50:50 v/v) gave 2-guanidino-4-[3-(2-cyanoguanidino)cyclohexyl] thiazole as a glass. The n.m.r. spectrum in d6 dimethylsulphoxide included resonances at 1.28(m); 1.8(m); 6.3(s); 6.55(br s); 6.67(d); 6.9(br s) and showed resonances attributable to solvation by ethanol (~0.5 mole) and water.

reactant | 2-guanidino-4-(3-aminocyclohexyl)thiazole dihydrochloride | 0.62 g | Cl.Cl.N(C(=N)N)C=1SC=C(N1)C1CC(CCC1)N
reactant | triethylamine | 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | sodium dicyanamide | 0.23 g | [N-](C#N)C#N.[Na+]
solvent | n-butanol | 10 ml | C(CCC)O | C4H10O
product | 2-guanidino-4-[3-(2-cyanoguanidino)cyclohexyl] thiazole | N(C(=N)N)C=1SC=C(N1)C1CC(CCC1)NC(=NC#N)N | C12H18N8S
